US08791119B2
A suspension of 0.165 (0.56 mmol) of 6-chloro-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide, 0.197 g (0.67 mmol) of 4-nitrophenyl 1,1,1-trifluoro-2-methylpropan-2-ylcarbamate and 0.155 (1.12 mmol) of sodium carbonate in 3 ml of acetonitrile is heated at 65° C. for 1 hour 30 minutes. After cooling, the mixture is poured into aqueous 1N sodium hydroxide solution and the product is extracted with dichloromethane. After drying over sodium sulfate and filtering, the solvent is evaporated off under reduced pressure and the residue is purified by chromatography on a column of 24 g of silica gel, eluting with a mixture of 3% methanol in dichloromethane, to give 0.125 g of 6-chloro-7-(3-fluorophenyl)-N2-(1,1,1-trifluoro-2-methylpropan-2-yl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a white powder after crystallization from 4 ml of acetonitrile, filtering off and drying under reduced pressure.

reactant | 6-chloro-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide | ClC1=C(C(=C2N1CCNC2)C(=O)N)C2=CC(=CC=C2)F | C14H13ClFN3O
reactant | 4-nitrophenyl 1,1,1-trifluoro-2-methylpropan-2-ylcarbamate | 0.67 mmol, 0.197 g | FC(C(C)(C)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C11H11F3N2O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6-chloro-7-(3-fluorophenyl)-N2-(1,1,1-trifluoro-2-methylpropan-2-yl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 0.125 g | ClC1=C(C(=C2N1CCN(C2)C(=O)NC(C(F)(F)F)(C)C)C(=O)N)C2=CC(=CC=C2)F | C19H19ClF4N4O2
